US05817671
5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
A mixture of 21 gm (89.9 mMol) 5-amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine and 10% palladium on carbon pre-wet with 30 mL ethanol in 180 mL methanol were hydrogenated at 65 p.s.i for 3 days. The catalyst was removed by filtration and the filtrate concentrated under reduced pressure. The residual solid was slurried in 120 mL ethyl acetate, filtered, and washed 3×30 mL ethyl acetate. The remaining solid was dried under reduced pressure to provide 19 gm (92%) the title compound as a light brown solid.

reactant | 5-amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 89.9 mMol, 21 gm | NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)C | C13H16N4
reactant | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 180 mL | CO | CH4O
product | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 19 gm, 92% | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
